US06982348B2
To a solution of (4RS,5SR)-4-((4-fluorophenyl)methyl)-5-(4-(trifluoromethyl)phenyl)-1,3-oxazolidin-2-one (18 g, 53.1 mmol) in ethanol (300 ml) was added 8N aqueous sodium hydroxide solution (19.9 ml, 159 mmol), and the mixture was heated under reflux for 4 hrs. The reaction solution was concentrated, diluted with water (300 ml), and extracted with ethyl acetate (300 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. Recrystallization of the residue from ethyl acetate-hexane gave (1RS,2SR)-2-amino-3-(4-fluorophenyl)-1-(4-(trifluoromethyl)phenyl)-1-propanol (14.1 g, 85%).

reactant | (4RS,5SR)-4-((4-fluorophenyl)methyl)-5-(4-(trifluoromethyl)phenyl)-1,3-oxazolidin-2-one | 53.1 mmol, 18 g | FC1=CC=C(C=C1)CC1NC(OC1C1=CC=C(C=C1)C(F)(F)F)=O | C17H13F4NO2
reactant | sodium hydroxide | 159 mmol, 8N, 19.9 ml | [OH-].[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | (1RS,2SR)-2-amino-3-(4-fluorophenyl)-1-(4-(trifluoromethyl)phenyl)-1-propanol | 14.1 g, 85% | NC(C(O)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)F | C16H15F4NO
